US05773463
(±)cis-1-(4Benzyloxyphenoxy)-2-(N-methyl-N-tert-butoxycarbonylamino)indane
The title compound was prepared in a similar manner to Preparation 19 from sodium hydride (80% disp. in oil, 83 mg, 2.76 mmol) in dry N,N-dimethylformamide (5 ml), (±)cis-1-(4-benzyloxy phenoxy)-2-tert-butoxycarbonylaminoindane (1 g, 2.3 mmol) in N,N-dimethylformamide (5 ml) and iodomethane (175 μl, 2.76 mmol). Column chromatography on silica gel eluting with a gradient of 10-15% diethyl ether in hexanes afforded the title compound (968 mg) as a colourless oil.

reactant | sodium hydride | 2.76 mmol, 83 mg | [H-].[Na+]
reactant | (±)cis-1-(4-benzyloxy phenoxy)-2-tert-butoxycarbonylaminoindane | 2.3 mmol, 1 g | C(C1=CC=CC=C1)OC1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC(=O)OC(C)(C)C)C=C1 | C27H29NO4
reactant | iodomethane | 2.76 mmol, 175 μl | IC | CH3I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (±)cis-1-(4Benzyloxyphenoxy)-2-(N-methyl-N-tert-butoxycarbonylamino)indane | 968 mg | C(C1=CC=CC=C1)OC1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)N(C(=O)OC(C)(C)C)C)C=C1 | C28H31NO4
